US08748624B2
STEP F: 3-(5-(2-(((3′,4′-dichloro-2-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-fluorophenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.10 mL, 0.31 mmol) was added to a THF solution (3 mL) of ethyl 3-(5-(2-(((3′,4′-dichloro-2-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate (60 mg, 0.10 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 0.31 mmol, 0.10 mL | [OH-].[Na+]
reactant | ethyl 3-(5-(2-(((3′,4′-dichloro-2-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate | 0.10 mmol, 60 mg | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)F | C30H25Cl2F2N3O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(5-(2-(((3′,4′-dichloro-2-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-fluorophenyl)picolinamido)propanoic acid | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O)F | C28H21Cl2F2N3O3
